US05371080
5-Morpholino-3-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-imidazo[1,5-a]quinazoline (Compound 69)
Trifluoroacetic anhydride (0.15 ml) was added dropwise to a suspension of 5-morpholino-imidazo[1,5-a]quinazoline-3-carboxamide oxime in 4 ml of dry tetrahydrofuran. After stirring for 3 hours at room temperature the reaction mixture was evaporated in vacuo. The residue was dissolved in a mixture of water and ethyl acetate. The organic phase was washed with water, dried over anhydrous magnesium sulphate, and evaporated to dryness. The crystals were rinsed by stirring with isopropanol (3 ml) to give yellow crystals of the title compound, m.p. 182°-186° C. Yield 0.06 g.

reactant | Trifluoroacetic anhydride | 0.15 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 5-morpholino-imidazo[1,5-a]quinazoline-3-carboxamide oxime | O1CCN(CC1)C1=NC=2N(C3=CC=CC=C13)C=NC2C(N)=NO | C15H16N6O2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 5-Morpholino-3-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-imidazo[1,5-a]quinazoline | O1CCN(CC1)C1=NC=2N(C3=CC=CC=C13)C=NC2C2=NOC(=N2)C(F)(F)F | C17H13F3N6O2
